US06482824B1
Acetyl chloride (30 ml) was added dropwise over 10 mins to a cooled solution of methanol (300 ml) The resulting solution of hydrogen chloride in methanol was added to a stirred solution of 2-t-butoxycarbonyl-3, 6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1, 2-oxazine (11.6 g, 34.8 mmol) in methanol (50 ml). After 4 h at room temperature the mixture was evaporated to a solid (8.35 g), triturated with diethyl ether and the solid filtered to give 3,6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1,2-oxazine hydrochloride.

reactant | Acetyl chloride | 30 ml | C(C)(=O)Cl | C2H3ClO
reactant | hydrogen chloride | Cl | ClH
reactant | 2-t-butoxycarbonyl-3, 6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1, 2-oxazine | 34.8 mmol, 11.6 g | C(C)(C)(C)OC(=O)N1OC(C(=CC1C)C)C1=CC=C(C=C1)OCC | C19H27NO4
solvent | methanol | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
solvent | methanol | 300 ml | CO | CH4O
product | 3,6-dihydro-3,5-dimethyl-6-(4-ethoxyphenyl)-2H-1,2-oxazine hydrochloride | Cl.CC1NOC(C(=C1)C)C1=CC=C(C=C1)OCC | InChI=1S/C14H19NO2.ClH/c1-4-16-13-7-5-12(6-8-13)14-10(2)9-11(3)15-17-14;/h5-9,11,14-15H,4H2,1-3H3;1H
